US05474994
8-{2-[4-(2-Methoxyphenyl)-1-piperazinyl]ethylsulfonylamino}-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran methanesulfonate
1.05 ml of 2-chloroethanesulfonyl chloride was added dropwise to a solution of 5 g of 8-amino-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran and 1.4 ml of triethylamine stirred at 0° C. The reaction mixture was stirred at room temperature for 2 days. After filtering the precipitated solid, the solution was evaporated to dryness in vacuo to give a crude residue containing 8-(ethenylsulfonylamino)-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran used without further purification. A mixture of 7.54 g of this residue and 5.8 g of 1-(2-methoxyphenyl)piperazine and 4.15 g of potassium carbonate in 100 ml of dimethylformamide was stirred at room temperature for 4 hours, poured into 600 ml of water and extracted with ethyl acetate. The organic layer was evaporated to dryness in vacuo and the residue was purified by column chromatography on silica gel eluting with petroleum ether-acetone 8:2. The collected fractions were evaporated to dryness in vacuo and crystallized from 70% ethanol to give 0.75 g of the title compound as a base. This solid was dissolved in dichloromethane and 1 equivalent of methanesulfonic acid was added to the solution. The crude methanesulfonate, obtained by evaporation in vacuo, was crystallized from acetone, yielding 0.6 g of the title compound melting at 202°-203° C.

reactant | 2-chloroethanesulfonyl chloride | 1.05 ml | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | 8-amino-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | 5 g | NC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C16H13NO2
reactant | 8-(ethenylsulfonylamino)-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | C(=C)S(=O)(=O)NC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C18H15NO4S
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
product | 8-{2-[4-(2-Methoxyphenyl)-1-piperazinyl]ethylsulfonylamino}-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran methanesulfonate | 0.75 g | CS(=O)(=O)O.COC1=C(C=CC=C1)N1CCN(CC1)CCS(=O)(=O)NC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | InChI=1S/C29H31N3O5S.CH4O3S/c1-21-27(33)23-11-8-12-24(29(23)37-28(21)22-9-4-3-5-10-22)30-38(34,35)20-19-31-15-17-32(18-16-31)25-13-6-7-14-26(25)36-2;1-5(2,3)4/h3-14,30H,15-20H2,1-2H3;1H3,(H,2,3,4)
